US04596768
Ampicilloic acid was prepared in the following manner. Ampicillin trihydrate (10 gm, Sigma) was suspended in 50 ml of water and dissolved by the addition of 10N NaOH. The pH was maintained at 12 by the addition of 10N NaOH. After 1 hour, the pH was adjusted to 7.0 with 6N HCl. 2-Propanol (140 ml) was then added, and the solution allowed to stand for 4 hours at 4° C., after which time crystals had formed. The crystals were filtered and washed several times with cold 2-propanol:water (3:1) and allowed to dry at room temperature. Thin layer chromatography confirmed that this material was essentially all ampicilloic acid. Yield was 1.97 gm.

reactant | Ampicillin trihydrate | 10 gm | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)[C@@H](C=3C=CC=CC3)N)C(=O)O)C.O.O.O
reactant | NaOH | 10N | [OH-].[Na+]
reactant | NaOH | 10N | [OH-].[Na+]
reactant | HCl | 6N | Cl | ClH
reactant | 2-Propanol | 140 ml | CC(C)O | C3H8O
solvent | water | 50 ml | O | H2O
product | Ampicilloic acid | CC1([C@@H](N[C@H](S1)[C@@H](C(=O)O)NC(=O)[C@@H](C2=CC=CC=C2)N)C(=O)O)C | C16H21N3O5S
